US07354932B2
To a solution of 3-buten-1-yl acetate (5.7 g, 50 mmol) in dichloromethane (200 mL) was added m-chloroperoxybenzoic acid (12.9 g, 75 mmol). The reaction was then stirred at room temperature for 3 hours. The reaction mixture was then filtered through celite and concentrated in vacuo. The residue was purified by silica gel flash chromatography (4:1 hexanes:ethyl acetate) to yield 3,4-epoxybutan-1-yl acetate as a colourless oil in a yield of 3.8 g (58%). 1H NMR (CDCl3) δ 1.78-1.88 (m, 2H), 2.03 (s, 3H), 2.47 (m, 1H), 2.75 (m, 1H), 2.99 (m, 1H), 4.18 (t, 1H, J=6.6 Hz).

reactant | 3-buten-1-yl acetate | 50 mmol, 5.7 g | C(C)(=O)OCCC=C | C6H10O2
reactant | m-chloroperoxybenzoic acid | 75 mmol, 12.9 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 3,4-epoxybutan-1-yl acetate | C(C)(=O)OCCC1CO1 | C6H10O3
